US06153744
12 g thionyl chloride (7.4 ml, 100 mmol) in 10 ml toluene (abs.) are quickly added in a drop-wise manner to a solution of 6.78 g 2-(4-chloro-2-nitrophenyl)ethanol (33 mmol) in 100 ml abs. toluene and 2.5 ml pyridine. This is heated 2 h under reflux, cooled, poured onto 100 g ice and mixed with 100 ml CH2Cl2. The aqueous phase is extracted 2× each with 50 ml CH2Cl2. The combined organic phases are neutralized 2× each with 80 ml saturated bicarbonate solution, dried over Na2SO4, filtered and rotary evaporated. 7.12 g (32 mmol, 98%) 2-(4-chloro-2-nitrophenyl)ethyl chloride are obtained as a brown oil which hardens to a brown solid after some days in the refrigerator.

reactant | thionyl chloride | 100 mmol, 7.4 ml, 12 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-chloro-2-nitrophenyl)ethanol | 33 mmol, 6.78 g | ClC1=CC(=C(C=C1)CCO)[N+](=O)[O-] | C8H8ClNO3
reactant | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-chloro-2-nitrophenyl)ethyl chloride | 32 mmol, 7.12 g, 98% | ClC1=CC(=C(C=C1)CCCl)[N+](=O)[O-] | C8H7Cl2NO2
